US04456733
Blend B Copolymer--Into a polymerization reactor equipped with an agitator and a reflux condenser were charged 616 ml of styrene, 3.0 grams of terpinolene and 200 ml of ethylbenzene. Then 80 grams of high cis-polybutadiene from Goodyear Tire & Rubber Company (Budene 1208) was dissolved in the mixture. After the rubber had dissolved, a solution of 40 grams of acrylic acid in 60 ml of methyl ethyl ketone was introduced into the mixture. The temperature of the reaction mixture was raised to 95° C. and maintained between 95° and 120° C. during the course of the polymerization. Polymerization was initiated by introducing into the system a mixture of 0.2 ml of tert-butyl peracetate and 0.2 ml of tert-butyl per-neo-decanoate. About one hour later, continuous addition of a solution of 40 grams of acrylic acid and 60 ml of methyl ethyl ketone was initiated and this addition was continued for about 4.5 hours. Additional 0.2 ml portions of tert-butyl peracetate were introduced into the polymerization mixture at 110 minutes and 310 minutes after the initiation of polymerization. Polymerization was terminated 5.5 hours after initiation and the resultant polymer was recovered and dried, first in air and then in a vacuum oven, to yield 432 grams of rubber-modified styrene-acrylic acid graft copolymer. In order to produce enough copolymer for the ensuing test work this general procedure was repeated five more times and the products from the six runs were combined and mixed in a Waring blender. Variations in the polymerization conditions occurred from run to run but were not of material significance. The resultant combined polymer contained about 84.6% styrene and about 15.4% acrylic acid. Its rubber content was approximately 17.1% based on the weight of the resin phase.

reactant | styrene | 616 ml | C=CC1=CC=CC=C1 | C8H8
reactant | ethylbenzene | 200 ml | C(C)C1=CC=CC=C1 | C8H10
reactant | acrylic acid | 40 grams | C(C=C)(=O)O | C3H4O2
reactant | tert-butyl peracetate | 0.2 ml | C(C)(=O)OOC(C)(C)C | C6H12O3
reactant | neo-decanoate | C(CCCCCC(C)(C)C)(=O)[O-]
reactant | acrylic acid | 40 grams | C(C=C)(=O)O | C3H4O2
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
catalyst | terpinolene | 3.0 grams | CC1=CCC(=C(C)C)CC1 | C10H16
solvent | methyl ethyl ketone | 60 ml | C(C)C(=O)C | C4H8O
product | styrene-acrylic acid | 432 grams | C(=CC1=CC=CC=C1)C=CC(=O)O | C11H10O2
